US07531532B2
4-(4-Amino-3-chlorophenoxy)-2-[(4-methylpiperazin-1-yl)carbonylamino]pyridine
2-Amino-4-(4-amino-3-chlorophenoxy)pyridine (236 mg) as disclosed in WO 02/32872 was dissolved in tetrahydrofuran (10 ml) under a nitrogen atmosphere, and then triethylamine (0.21 ml) and phenyl chloroformate (0.188 ml) were added dropwise thereto while cooling in an ice bath, followed by stirring at room temperature for 1.5 hrs. To the reaction mixture were added N,N-dimethylformamide (2 ml) and 1-methylpiperazine (0.555 ml), followed by further stirring for 1 day. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; ethyl acetate:methanol=95:5) to provide the titled compound (234 mg, 65%) as pale brown powder.

reactant | 2-Amino-4-(4-amino-3-chlorophenoxy)pyridine | 236 mg | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)N)Cl | C11H10ClN3O
reactant | triethylamine | 0.21 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.188 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 1-methylpiperazine | 0.555 ml | CN1CCNCC1 | C5H12N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-(4-Amino-3-chlorophenoxy)-2-[(4-methylpiperazin-1-yl)carbonylamino]pyridine | 234 mg, 65% | NC1=C(C=C(OC2=CC(=NC=C2)NC(=O)N2CCN(CC2)C)C=C1)Cl | C17H20ClN5O2
